US04757081
In 200 ml of xylene were dissolved 6.3 g (0.020 mole) of 5-(2-chlorophenyl)-2-methyl-1-phenyl-1,3,5-pentanetrione, 20.0 g (0.155 mole) of 2,6-difluoroaniline, 4.6 g (0.024 mole) of para-toluenesulfonic acid and 50.0 g of Molecular Sieves 5A, followed by reflux for 8 hours. Solid matter was filtered off from the reaction mixture and 300 ml of chloroform was added to the filtrate. The mixture obtained was washed first with 50 ml of 10% hydrochloric acid and then with 50 ml of a 10% aqueous solution of sodium hydroxide. After washing the chloroform layer further with water, it was dried over anhydrous sodium sulfate. Subsequent to removal of the sodium solfate, the solvent was distilled off and the residue was subjected to column chromatography (eluent: ethyl acetate) to afford crystals. The crystals were recrystallized from a 2:1 mixed solvent of acetone and hexane, thereby yielding 2.0 g of 6-(2-chlorophenyl)-1-(2,6-difluorophenyl)-3-methyl-2-phenyl-4(1H)-pyridinone having a melting point of 213°-215° C.

reactant | 5-(2-chlorophenyl)-2-methyl-1-phenyl-1,3,5-pentanetrione | 0.020 mole, 6.3 g | ClC1=C(C=CC=C1)C(CC(C(C(=O)C1=CC=CC=C1)C)=O)=O | C18H15ClO3
reactant | 2,6-difluoroaniline | 0.155 mole, 20.0 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | para-toluenesulfonic acid | 0.024 mole, 4.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | xylene | 200 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 6-(2-chlorophenyl)-1-(2,6-difluorophenyl)-3-methyl-2-phenyl-4(1H)-pyridinone | 2.0 g | ClC1=C(C=CC=C1)C1=CC(C(=C(N1C1=C(C=CC=C1F)F)C1=CC=CC=C1)C)=O | C24H16ClF2NO
